US08349885B2
Preparation 15: Synthesis of 7-nitro-2-pyrazin-2-yl-1H-indole
2-Nitrophenylhydrazine hydrochloride (3.1 g, 16 mmol) and 2-acetylpyrazine (2.0 ml, 16 mmol) were reacted according to the same procedures as Preparations 4 to 5 to give the title compound (0.5 g, Yield 13%).

reactant | 2-Nitrophenylhydrazine hydrochloride | 16 mmol, 3.1 g | Cl.[N+](=O)([O-])C1=C(C=CC=C1)NN
reactant | 2-acetylpyrazine | 16 mmol, 2.0 ml | C(C)(=O)C1=NC=CN=C1 | C6H6N2O
product | 7-nitro-2-pyrazin-2-yl-1H-indole | 0.5 g, Yield 13% | [N+](=O)([O-])C=1C=CC=C2C=C(NC12)C1=NC=CN=C1 | C12H8N4O2
